US04472193
Step 1: Preparation of 2,2-dimethyl-N-(2-chloro-5-pyridinyl)propanamide
To an ice-cooled solution of 45 g (0.35 mole) of 5-amino-2-chloropyridine and 42.4 g (0.42 mole) of triethylamine in 300 ml of CH2Cl2 was added, dropwise, a solution of 44.3 g (0.368 moles) of trimethyl acetyl chloride in 60 ml of dichloromethane over a period of 1.5 hours. This mixture was stirred at room temperature for 2 hours, poured into 5% aqueous NaOH and the dichloromethane layer separated. The organic layer was washed with 5% aqueous NaOH, dried over Na2SO4 and evaporated to leave a brown oil which solidified on standing. This solid was taken up in hot ethyl acetate, treated with charcoal, filtered and diluted with hexane. Cooling this solution resulted in the precipitation of 58.7 g (79% of theoretical) of white crystals having a melting point of 120°-123° C. Carbon, hydrogen and nitrogen content calculated for C10H13ClN2O is C, 56.47; H, 6.16; and N, 13.17 percent by weight which compared to that actually found of C, 56.31; H, 6.14; and N, 13.02 percent by weight.

reactant | 5-amino-2-chloropyridine | 0.35 mole, 45 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | triethylamine | 0.42 mole, 42.4 g | C(C)N(CC)CC | C6H15N
reactant | trimethyl acetyl chloride | 0.368 moles, 44.3 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | NaOH | [OH-].[Na+]
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-dimethyl-N-(2-chloro-5-pyridinyl)propanamide | CC(C(=O)NC=1C=CC(=NC1)Cl)(C)C | C10H13ClN2O
